US07977331B1
To a solution of methyl 1-[3-(2-bromophenyl)propyl]-3-cyclohexyl-1H-indole-6-carboxylate (250 mg, 0.550 mmol) in N,N-dimethylacetamide (7.5 ml) were added potassium acetate (59 mg, 0.605 mmol) and tetrakis(triphenylphosphine)palladium (32 mg, 0.0275 mmol), and the mixture was stirred at 160° C. for 5 hr. The reaction mixture was allowed to cool to room temperature. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel chromatography (hexane:ethyl acetate=8:1-4:1) to give methyl 13-cyclohexyl-6,7-dihydro-5H-benzo[3,4]azepino[1,2-a]indole-10-carboxylate (55 mg, yield 27%).

reactant | methyl 1-[3-(2-bromophenyl)propyl]-3-cyclohexyl-1H-indole-6-carboxylate | 0.550 mmol, 250 mg | BrC1=C(C=CC=C1)CCCN1C=C(C2=CC=C(C=C12)C(=O)OC)C1CCCCC1 | C25H28BrNO2
reactant | potassium acetate | 0.605 mmol, 59 mg | C(C)(=O)[O-].[K+]
reactant | Water | O | H2O
solvent | N,N-dimethylacetamide | 7.5 ml | CN(C(C)=O)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.0275 mmol, 32 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 13-cyclohexyl-6,7-dihydro-5H-benzo[3,4]azepino[1,2-a]indole-10-carboxylate | 55 mg, yield 27% | C1(CCCCC1)C1=C2N(C=3C=C(C=CC13)C(=O)OC)CCCC1=C2C=CC=C1 | C25H27NO2
